US04332813
Preparation of NIm -trityl imidazole-4-carboxaldehyde (3·I)
Imidazole 4-carboxaldehyde, 96 mg (1 mmole), is treated with 278.5 mg (1 mmole) of trityl chloride in 25 ml of DMF containing 139 μl of triethylamine (1 mmole) overnight. The DMF is pumped off in vacuo and the residue, taken up in benzene, is washed with dilute aqueous NaHCO3 three times, then brine, then dried with K2CO3, filtered and evaporated to afford compound 3·I.

reactant | Imidazole 4-carboxaldehyde | N1C=NC(=C1)C=O | C4H4N2O
reactant | trityl chloride | 1 mmole, 278.5 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 1 mmole | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trityl imidazole-4-carboxaldehyde | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C=1NC=C(N1)C=O | C23H18N2O
